US05220042
Under argon gas stream conditions 2 g of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene was dissolved in 50 ml of a mixed solvent of anhydrous toluene-tetrahydrofuran (4:1), to this solution were added 10 ml of hexamethylphosphoric triamide and 0.94 ml of N,N,N',N'-tetramethylethylenediamine, then the whole mixture was cooled on a dry ice-acetone bath. 4 Milliliter of n-butyllithium (1.5 M, n-hexane solution) was added dropwise to the reaction mixture and stirred 30 minutes. Next, oxygen gas was bubbled into the reaction mixture for 30 minutes, then the temperature of the reaction mixture was returned back to room temperature by taking for 4 hours. The reaction mixture was concentrated, to the residue obtained was added 100 ml of ethyl acetate, then the ethyl acetate layer was washed twice with 30 ml of a saturated sodium bisulfite aqueous solution, once with 30 ml of water, further washed once with 30 ml of a saturated sodium chloride aqueous solution. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and concentrated, then the residue obtained was purified by a silica gel column chromatography (eluent: ethyl acetate-n-hexane=1:9) to obtain 1.3 g of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-hydroxyphenyl]pentyl}benzene. Colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene | 2 g | COC1=C(C(=C(C(=C1CCCC)OCOC)OC)CCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC)OCOC | C33H52O12
reactant | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | N,N,N',N'-tetramethylethylenediamine | 0.94 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.5 M | C(CCC)[Li]
solvent | toluene tetrahydrofuran | C1(=CC=CC=C1)C.O1CCCC1
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-hydroxyphenyl]pentyl}benzene | 1.3 g | COC1=C(C(=C(C(=C1CCCC)OCOC)OC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)O)OCOC)OC)OCOC | C33H52O13
